US07081470B2
1-[(5-CHLORO-2-THIENYL)METHYL]-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE
A mixture of 1-[(5-chloro-2-thienyl)methyl]-2H-indole-2,3-dione (25 mg, 0.09 mmol) (prepared as described below) and 3-trifluoromethylaniline (11.3 μL, 0.09 mmol) was heated neat at 140° C. for 2 h. The crude material was purified by preparative TLC using a mixture of 3:7 ethyl acetate in hexane as the eluent, giving the desired product (23 mg 0.05 mmol, 61%). 1H NMR (400 MHz): 6 (major isomer) 7.57 (t, J=7.7, 1H), 7.53 (t, J=7.8, 1H), 7.33 (t, J 7.8, 1H), 7.28 (s, 1H), 7.19 (d, J=7.6, 2H), 6.94–6.72 (m, 4H) 6.56 (d, =7.7, 1H), 5.02 (s, 2H); ESI-MS m/z found 421 (MH+).

reactant | 1-[(5-chloro-2-thienyl)methyl]-2H-indole-2,3-dione | 0.09 mmol, 25 mg | ClC1=CC=C(S1)CN1C(C(C2=CC=CC=C12)=O)=O | C13H8ClNO2S
reactant | 3-trifluoromethylaniline | 0.09 mmol, 11.3 μL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 1-[(5-CHLORO-2-THIENYL)METHYL]-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE | 0.05 mmol, 23 mg, 61% | ClC1=CC=C(S1)CN1C(C(C2=CC=CC=C12)=NC1=CC(=CC=C1)C(F)(F)F)=O | C20H12ClF3N2OS
